US08729102B2
A) 6-chloro-5-fluoropyridin-3-ol
Under an argon atmosphere, to a mixture of 5-bromo-2-chloro-3-fluoropyridine (4.45 g) and toluene (50 mL) was added dropwise a hexane solution (1.6 M, 15.8 mL) of n-butyllithium at −78° C., and the obtained mixture was stirred at −78° C. for 5 min. To the reaction mixture was added trimethoxyborane (2.84 mL), and the obtained mixture was stirred at −78° C. for 15 min, and then at room temperature overnight. The reaction mixture was cooled to 0° C., 8M aqueous sodium hydroxide solution (3.17 mL) and 30% aqueous hydrogen peroxide (20 mL) were added thereto, and the obtained mixture was stirred at room temperature for 2 hr. The reaction mixture was cooled to 0° C., and saturated aqueous sodium thiosulfate solution was added thereto. The mixture was neutralized with 1M hydrochloric acid, and extracted with ethyl acetate. The combined organic layer was washed with water and saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (2.20 g).

reactant | 5-bromo-2-chloro-3-fluoropyridine | 4.45 g | BrC=1C=C(C(=NC1)Cl)F | C5H2BrClFN
reactant | n-butyllithium | C(CCC)[Li]
reactant | trimethoxyborane | 2.84 mL | COB(OC)OC | C3H9BO3
reactant | sodium hydroxide | 8M, 3.17 mL | [OH-].[Na+]
reactant | hydrogen peroxide | 20 mL | OO | H2O2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | hexane | 1.6 M, 15.8 mL | CCCCCC | C6H14
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 6-chloro-5-fluoropyridin-3-ol | 2.20 g | ClC1=C(C=C(C=N1)O)F | C5H3ClFNO
